US08957093B2
(R)-4′-((5-(2-hydroxy-1-phenylethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Steps 8-9, Example 1, using (R)-2-amino-2-phenylethanol and 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. LC-MS 519 (M+H).

reactant | (R)-2-amino-2-phenylethanol | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | (R)-4′-((5-(2-hydroxy-1-phenylethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | OC[C@@H](C1=CC=CC=C1)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C33H30N2O4
